### PR TITLE
[Merged by Bors] - feat: Language reversal

### PR DESCRIPTION
**Pull request by madvorak**
---

- [x] depends on: #8642

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/Language.lean [hunk 1]
```diff
@@ -297,6 +297,65 @@ instance : KleeneAlgebra (Language α) :=
...
+  ext w
+  convert_to w.reverse.reverse ∈ reverse (reverse l) ↔ w ∈ l using 5
+  · rw [List.reverse_reverse]
+  rw [reverse_mem_reverse, reverse_mem_reverse]
+
+lemma reverse_union : (l + m).reverse = l.reverse + m.reverse := by
+  ext w
+  apply mem_add
+
+lemma reverse_concatenation : (l * m).reverse = m.reverse * l.reverse := by
```
Comment (eric-wieser) [inline Mathlib/Computability/Language.lean:324]:
```suggestion
lemma reverse_mul : (l * m).reverse = m.reverse * l.reverse := by
```

File: Mathlib/Computability/Language.lean [hunk 2]
```diff
@@ -297,6 +297,65 @@ instance : KleeneAlgebra (Language α) :=
...
+lemma reverse_one : (1 : Language α).reverse = 1 := by
+  simp [reverse, ← one_def]
+
+lemma reverse_reverse : l.reverse.reverse = l := by
+  ext w
+  convert_to w.reverse.reverse ∈ reverse (reverse l) ↔ w ∈ l using 5
+  · rw [List.reverse_reverse]
+  rw [reverse_mem_reverse, reverse_mem_reverse]
+
+lemma reverse_union : (l + m).reverse = l.reverse + m.reverse := by
```
Comment (eric-wieser) [inline Mathlib/Computability/Language.lean:320]:
```suggestion
lemma reverse_add : (l + m).reverse = l.reverse + m.reverse := by
```

File: Mathlib/Computability/Language.lean [hunk 3]
```diff
@@ -297,6 +297,65 @@ instance : KleeneAlgebra (Language α) :=
...
+
+@[simp]
+lemma reverse_mem_reverse : a.reverse ∈ l.reverse ↔ a ∈ l := by
+  show a.reverse.reverse ∈ l ↔ a ∈ l
+  rw [List.reverse_reverse]
+
+lemma reverse_zero : (0 : Language α).reverse = 0 := by
+  rfl
+
+lemma reverse_one : (1 : Language α).reverse = 1 := by
```
Comment (eric-wieser) [inline Mathlib/Computability/Language.lean:311]: This one and the one above should be `simp`

File: Mathlib/Computability/Language.lean [hunk 4]
```diff
@@ -297,6 +297,65 @@ instance : KleeneAlgebra (Language α) :=
       rw [pow_succ, ←mul_assoc m l (l^n)]
       exact le_trans (le_mul_congr h le_rfl) ih }
 
+/-- Language `l.reverse` is defined as the set of words from `l` backwards. -/
+def reverse (l : Language α) : Language α := { w : List α | w.reverse ∈ l }
+
+@[simp]
+lemma reverse_mem_reverse : a.reverse ∈ l.reverse ↔ a ∈ l := by
```
Comment (eric-wieser) [inline Mathlib/Computability/Language.lean:304]: Can you also add the non-simp lemma `mem_reverse_iff : a ∈ l.reverse ↔ ...`

File: Mathlib/Computability/Language.lean [hunk 5]
```diff
@@ -297,6 +297,65 @@ instance : KleeneAlgebra (Language α) :=
...
+  show a.reverse.reverse ∈ l ↔ a ∈ l
+  rw [List.reverse_reverse]
+
+lemma reverse_zero : (0 : Language α).reverse = 0 := by
+  rfl
+
+lemma reverse_one : (1 : Language α).reverse = 1 := by
+  simp [reverse, ← one_def]
+
+lemma reverse_reverse : l.reverse.reverse = l := by
```
Comment (eric-wieser) [inline Mathlib/Computability/Language.lean:314]: Also good simp lemma

File: Mathlib/Computability/Language.lean [hunk 6]
```diff
@@ -297,6 +297,65 @@ instance : KleeneAlgebra (Language α) :=
...
+    use v.reverse, u.reverse
+    simp_all [← List.reverse_append]
+
+lemma reverse_kstar : l∗.reverse = l.reverse∗ := by
+  ext w
+  simp only [reverse, kstar_def]
+  show
+    (∃ L, w.reverse = join L ∧ ∀ y, y ∈ L → y ∈ l) ↔
+    (∃ L, w = join L ∧ ∀ y, y ∈ L → y.reverse ∈ l)
+  constructor
```
Comment (eric-wieser) [inline Mathlib/Computability/Language.lean:340]: I would guess there are some tricks to make the proof from here a lot shorter; for instance rewriting the existential through some lemma about involutive functions, and how `map f` is involutive if `f` is.

**Review by eric-wieser — COMMENTED** [review]
This generally looks good, thanks!

Can you mention `reverse` in the module docstring?

File: Mathlib/Computability/Language.lean (hunk 6 above)
Comment (madvorak) [reply Mathlib/Computability/Language.lean:346]: Can you be more concrete please?

Comment (eric-wieser) [reply Mathlib/Computability/Language.lean:346]: You'll need the lemmas from #8642

Comment (madvorak) [reply Mathlib/Computability/Language.lean:346]: Did you just create a whole PR in order to simplify my proof?

Comment (eric-wieser) [reply Mathlib/Computability/Language.lean:346]: Yes, but also because I think those lemmas should exist.

Comment (eric-wieser) [reply Mathlib/Computability/Language.lean:346]: The outline will be to rewrite by `List.reverse_involutive.list_map.surjective.exists` or similar to reverse the `L` that is being quantified over.

**Comment by madvorak** [comment]
Should we provide an instance of `MulOpposite` or something like that?

File: Mathlib/Computability/Language.lean (hunk 6 above)
Comment (madvorak) [reply Mathlib/Computability/Language.lean:346]: OK, I'll wait for #8642 to be merged.

**Comment by eric-wieser** [comment]
> Should we provide an instance of `MulOpposite` or something like that?

The generous interpretation of this I think is `reverseHom : Language X ->+* MulOpposite (Language X)`

**Comment by eric-wieser** [comment]
It's `RingHom`, typed when I didn't have access to `→`.

**Comment by madvorak** [comment]
Looks complicated. Can we proceed without the instance?

**Comment by eric-wieser** [comment]
It wouldn't be an instance, it would be a def. One nice bonus of having the def is that it makes it a little easier to prove that `(x ^ n).reverse = x.reverse ^ n`.

To get you started, you'd want `toFun x := .op (reverse x)`.

File: Mathlib/Computability/Language.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Computability/Language.lean]: I pushed a golf

**Comment by eric-wieser** [comment]
maintainer merge

Once again, I pushed a few changes at the end, so please take one final skim

File: Mathlib/Computability/Language.lean [hunk 7]
```diff
@@ -313,18 +313,16 @@ lemma reverse_zero : (0 : Language α).reverse = 0 := rfl
 lemma reverse_one : (1 : Language α).reverse = 1 := by
   simp [reverse, ← one_def]
 
-variable (l m)
-
```
Comment (eric-wieser) [inline Mathlib/Computability/Language.lean]: I'm happy with this change, but just because the commit message leaves room for doubt: this make no difference to whether the arguments are explicit, and is solely a stylistic change.

Comment (madvorak) [reply Mathlib/Computability/Language.lean]: Absolutely. I just think most of us agree that `variable` should not be used for explicit arguments.

File: Mathlib/Computability/Language.lean [hunk 8]
```diff
@@ -297,6 +297,71 @@ instance : KleeneAlgebra (Language α) :=
...
+    (∃ u v, u ∈ l ∧ v ∈ m ∧ u ++ v = w.reverse) ↔
+    (∃ u v, u.reverse ∈ m ∧ v.reverse ∈ l ∧ u ++ v = w)
+  rw [exists_comm, List.reverse_involutive.surjective.exists]
+  refine exists_congr fun u => ?_
+  rw [List.reverse_involutive.surjective.exists]
+  refine exists_congr fun v => ?_
+  rw [and_left_comm, ← List.reverse_append, List.reverse_inj]
+
+variable (α) in
+/-- `Language.reverse` as a ring homomorphism to the opposite ring. -/
```
Comment (eric-wieser) [inline Mathlib/Computability/Language.lean:337]:
```suggestion
/-- `Language.reverse` as a ring isomorphism to the opposite ring. -/
```

File: Mathlib/Computability/Language.lean [hunk 9]
```diff
@@ -297,6 +299,71 @@ instance : KleeneAlgebra (Language α) :=
...
+  invFun l' := l'.unop.reverse
+  left_inv := reverse_reverse
+  right_inv l' := MulOpposite.unop_injective <| reverse_reverse l'.unop
+  map_mul' l₁ l₂ := MulOpposite.unop_injective <| reverse_mul l₁ l₂
+  map_add' l₁ l₂ := MulOpposite.unop_injective <| reverse_add l₁ l₂
+
+lemma reverse_pow (l : Language α) (n : ℕ) : (l ^ n).reverse = l.reverse ^ n :=
+  MulOpposite.op_injective <| map_pow (reverseHom α) l n
+
+lemma reverse_kstar (l : Language α) : l∗.reverse = l.reverse∗ := by
```
Comment (YaelDillies) [inline Mathlib/Computability/Language.lean:352]: Those two should be simp too

File: Mathlib/Computability/Language.lean [hunk 10]
```diff
@@ -297,6 +299,71 @@ instance : KleeneAlgebra (Language α) :=
       rw [pow_succ, ←mul_assoc m l (l^n)]
       exact le_trans (le_mul_congr h le_rfl) ih }
 
+/-- Language `l.reverse` is defined as the set of words from `l` backwards. -/
+def reverse (l : Language α) : Language α := { w : List α | w.reverse ∈ l }
+
+lemma mem_reverse : a ∈ l.reverse ↔ a.reverse ∈ l := Iff.rfl
+
+@[simp]
+lemma reverse_mem_reverse : a.reverse ∈ l.reverse ↔ a ∈ l := by
```
Comment (YaelDillies) [inline Mathlib/Computability/Language.lean:308]: This makes more sense as
```suggestion
@[simp]
lemma mem_reverse : a ∈ l.reverse ↔ a.reverse ∈ l := Iff.rfl

lemma reverse_mem_reverse : a.reverse ∈ l.reverse ↔ a ∈ l := by
```
See eg [`Set.mem_inv`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Pointwise/Basic.html#Set.mem_inv)

File: Mathlib/Computability/Language.lean [hunk 11]
```diff
@@ -297,6 +299,71 @@ instance : KleeneAlgebra (Language α) :=
...
+  rw [exists_comm, List.reverse_involutive.surjective.exists]
+  refine exists_congr fun u => ?_
+  rw [List.reverse_involutive.surjective.exists]
+  refine exists_congr fun v => ?_
+  rw [and_left_comm, ← List.reverse_append, List.reverse_inj]
+
+variable (α) in
+/-- `Language.reverse` as a ring isomorphism to the opposite ring. -/
+@[simps]
+def reverseHom : Language α ≃+* (Language α)ᵐᵒᵖ where
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Computability/Language.lean:341]: Guilty!

File: Mathlib/Computability/Language.lean [hunk 12]
```diff
@@ -297,6 +299,75 @@ instance : KleeneAlgebra (Language α) :=
...
+lemma reverse_mul (l m : Language α) : (l * m).reverse = m.reverse * l.reverse := by
+  ext w
+  show
+    (∃ u v, u ∈ l ∧ v ∈ m ∧ u ++ v = w.reverse) ↔
+    (∃ u v, u.reverse ∈ m ∧ v.reverse ∈ l ∧ u ++ v = w)
+  rw [exists_comm, List.reverse_involutive.surjective.exists]
+  refine exists_congr fun u => ?_
+  rw [List.reverse_involutive.surjective.exists]
+  refine exists_congr fun v => ?_
+  rw [and_left_comm, ← List.reverse_append, List.reverse_inj]
```
Comment (YaelDillies) [inline Mathlib/Computability/Language.lean:338]:
```suggestion
  aesop
```
hopefully?

Comment (madvorak) [reply Mathlib/Computability/Language.lean]: Nope.

**Comment by urkud** [comment]
I'm going to push some minor golfs today.

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
